US06162809
19. 4-{3-[4-(5-Chloro-2-thienylmethyl)-1-piperazinyl]propylthio}-3-methyl-2-[(4-pyridinylthio)methyl]pyridine trihydrochloride
According to the procedure indicated in Example 7, reaction of 4-(3-chloropropylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine with [1-(5-chlorothiophen-2-yl)methyl]piperazine and potassium carbonate gives, after crystallization from isopropanol/acetone/conc. hydrochloric acid, the title compound; m.p. 160-162° C., dec.; yield 79% of theory.

reactant | 4-(3-chloropropylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine | ClCCCSC1=C(C(=NC=C1)CSC1=CC=NC=C1)C | C15H17ClN2S2
reactant | [1-(5-chlorothiophen-2-yl)methyl]piperazine | ClC1=CC=C(S1)CN1CCNCC1 | C9H13ClN2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-{3-[4-(5-Chloro-2-thienylmethyl)-1-piperazinyl]propylthio}-3-methyl-2-[(4-pyridinylthio)methyl]pyridine trihydrochloride | yield 79% | Cl.Cl.Cl.ClC1=CC=C(S1)CN1CCN(CC1)CCCSC1=C(C(=NC=C1)CSC1=CC=NC=C1)C | InChI=1S/C24H29ClN4S3.3ClH/c1-19-22(18-31-20-5-8-26-9-6-20)27-10-7-23(19)30-16-2-11-28-12-14-29(15-13-28)17-21-3-4-24(25)32-21;;;/h3-10H,2,11-18H2,1H3;3*1H
